US05506219
A solution of carbon tetrabromide (2.204 gm, 6.65 mmol) in CH2Cl2 (8 ml) was added over a 12 minute period to a cold (-12° C.) solution of 4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde (1.415 gm, 4.43 mmol) (the preparation of which is described in Example 1) and triphenylphosphine (3.488 gm, 13.3 mmol) in CH2Cl2 (25 ml). After the addition was complete, the cooling bath was removed and the mixture was stirred for 20 minutes. The solution was quenched with saturated NaHCO3 and extracted 3× with CH2Cl2. The combined organic layers were washed with saturated NaHCO3, dried (Na2SO4), filtered and stripped to give a yellow oil. The oil was chromatographed (flash, Merck SiO2, 40% CH2Cl2 in hexane) to give 3-(2,2-dibromoethenyl)-4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenylpyridine as a colorless foam (2.152 gm, 100%).

reactant | carbon tetrabromide | 6.65 mmol, 2.204 gm | C(Br)(Br)(Br)Br | CBr4
reactant | 4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenyl-3-pyridinecarboxaldehyde | 4.43 mmol, 1.415 gm | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C(C)C)C=O | C21H18FNO
reactant | triphenylphosphine | 13.3 mmol, 3.488 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,2-dibromoethenyl)-4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenylpyridine | 2.152 gm, 100% | BrC(=CC=1C(=NC(=CC1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(C)C)Br | C22H18Br2FN
